* V5 EMG Channel 1 VREF-centered conservative RRIO absolute rectifier candidate
* File: V5/sim/rectifier/emg_vref_abs_rectifier_conservative_rrio_candidate.cir
*
* Goal:
*   RECT_OUT = VREF + abs(RAW_IN - VREF)
*
* This keeps the same real-component topology as:
*   emg_vref_abs_rectifier_real_topology_candidate.cir
*
* No behavioral abs() is used inside the rectifier core.
* IDEAL_RECT and ERR are comparison monitors only.
*
* Conservative model purpose:
*   Exact MCP6002/MCP6004 local LTspice model was not found.
*   This file uses a finite-gain, finite-bandwidth, slew-current-limited,
*   limited-output-swing RRIO approximation to stress the topology more than
*   the first generic model.
*
* Local model note:
*   LTspice local Toshiba TBAT54 encrypted models were found, but this portable
*   candidate still uses an explicit generic Schottky model. A follow-up local
*   LTspice-only variant may replace D_SCHOTTKY_CONSERVATIVE with TBAT54.

.param VCC=3.3
.param VREFDC=1.65
.param AMPL=0.02
.param FREQ=100
.param VCM=1.65

V3V3 V3V3 GND {VCC}
VVREF VREF GND {VREFDC}
VRAW RAW_IN GND SINE({VCM} {AMPL} {FREQ})

* Conservative Schottky approximation for BAT54/BAS70-class review.
* This is not an exact vendor model.
.model D_SCHOTTKY_CONSERVATIVE D(Is=500p Rs=6 N=1.15 Cjo=8p M=0.33 Eg=0.69 Bv=30 Ibv=10u Tt=5n)

* Conservative MCP600x-class RRIO-ish op-amp approximation.
* Pins: INP INN OUT VDD VSS
* DC gain: about 100 dB via Gm*RDOM = 1m*100Meg = 1e5
* Dominant pole: about 10 Hz, giving about 1 MHz unity-gain bandwidth.
* Slew-current limit: Cdom ~= 159 pF, Imax ~= 63.6 uA -> about 0.4 V/us.
* Output swing: limited to 80 mV from either rail before output resistance.
* Output resistance: 100 ohm, intentionally more conservative than the first file.
.subckt RRIO_OPAMP_CONSERVATIVE INP INN OUT VDD VSS
.param GM=1m
.param RDOM=100Meg
.param CDOM=159p
.param ILIM=63.6u
.param VHEAD=0.08
.param ROUT=100
* Positive INP-INN must charge INT upward. Previous debug found the source direction reversed, which forced output toward the low rail.
GIN 0 INT VALUE={limit({GM}*(V(INP)-V(INN)), -{ILIM}, {ILIM})}
RDOM1 INT 0 {RDOM}
CDOM1 INT 0 {CDOM}
BOUT PREOUT 0 V=limit(V(INT), V(VSS)+{VHEAD}, V(VDD)-{VHEAD})
ROUT1 PREOUT OUT {ROUT}
COUT OUT VSS 10p
RINP INP VSS 1T
RINN INN VSS 1T
.ends RRIO_OPAMP_CONSERVATIVE

* -----------------------------------------------------------------------------
* U1: precision inverting half-wave rectifier around analog VREF
* -----------------------------------------------------------------------------
RIN1 RAW_IN SUM1 10k
RF1 A1_OUT SUM1 10k
XU1 VREF SUM1 U1_DRV V3V3 GND RRIO_OPAMP_CONSERVATIVE

* D1 conducts when RAW_IN > VREF; U1_DRV pulls low and A1_OUT is driven below VREF.
* D2 conducts when RAW_IN < VREF; U1_DRV pulls high and SUM1 is controlled while
* A1_OUT returns near VREF through R_A1_BIAS.
D1 A1_OUT U1_DRV D_SCHOTTKY_CONSERVATIVE
D2 U1_DRV SUM1 D_SCHOTTKY_CONSERVATIVE
R_A1_BIAS A1_OUT VREF 1Meg

R_ALIAS_A A1_OUT RECT_INT_A 1m
R_ALIAS_D1 A1_OUT D_FB_NODE 1m
R_ALIAS_D2 SUM1 D_CLAMP_NODE 1m

* -----------------------------------------------------------------------------
* U2: VREF-referenced inverting summer / reconstruction amplifier
* -----------------------------------------------------------------------------
* RECT_OUT - VREF = -1*(RAW_IN - VREF) - 2*(A1_OUT - VREF)
RRAW2 RAW_IN SUM2 20k
RA12 A1_OUT SUM2 10k
RF2 RECT_OUT SUM2 20k
XU2 VREF SUM2 RECT_INT_B V3V3 GND RRIO_OPAMP_CONSERVATIVE
RISO2 RECT_INT_B RECT_OUT 47

* Rail clamp visibility only; should not conduct in valid cases.
DOUT_H RECT_OUT V3V3 D_SCHOTTKY_CONSERVATIVE
DOUT_L GND RECT_OUT D_SCHOTTKY_CONSERVATIVE

* Existing / planned load path
R331 RECT_OUT EMG1_RECT_ADC 470
C331 EMG1_RECT_ADC GND 1n
R_ADC_LEAK EMG1_RECT_ADC GND 10Meg

* ENV LPF remains referenced to VREF because RECT_OUT baseline is analog VREF.
R_ENV RECT_OUT EMG1_ENV_DRV 33k
C_ENV EMG1_ENV_DRV VREF 1u
R_ENV_LEAK EMG1_ENV_DRV VREF 10Meg

* Comparison monitors only.
B_IDEAL IDEAL_RECT GND V=V(VREF)+abs(V(RAW_IN)-V(VREF))
B_ERR ERR GND V=V(RECT_OUT)-V(IDEAL_RECT)

.step param AMPL list 0.02 0.10 0.50 1.00
.step param FREQ list 20 100 500
.step param VCM list 1.60 1.65 1.70

.tran 0 120m 20m 20u

.meas tran OUT_MIN MIN V(RECT_OUT)
.meas tran OUT_MAX MAX V(RECT_OUT)
.meas tran IDEAL_MIN MIN V(IDEAL_RECT)
.meas tran IDEAL_MAX MAX V(IDEAL_RECT)
.meas tran ERR_MIN MIN V(ERR)
.meas tran ERR_MAX MAX V(ERR)
.meas tran ADC_MIN MIN V(EMG1_RECT_ADC)
.meas tran ADC_MAX MAX V(EMG1_RECT_ADC)
.meas tran ENV_MIN MIN V(EMG1_ENV_DRV)
.meas tran ENV_MAX MAX V(EMG1_ENV_DRV)
.meas tran U1_MIN MIN V(U1_DRV)
.meas tran U1_MAX MAX V(U1_DRV)
.meas tran U2_MIN MIN V(RECT_INT_B)
.meas tran U2_MAX MAX V(RECT_INT_B)

* Suggested LTspice plots:
*   V(RAW_IN), V(VREF), V(A1_OUT), V(RECT_OUT), V(IDEAL_RECT), V(ERR)
*   V(EMG1_RECT_ADC), V(EMG1_ENV_DRV)
*   V(U1_DRV), V(SUM1), V(SUM2), V(RECT_INT_B)

.end