* V5 EMG Channel 1 VREF-centered real-component absolute rectifier candidate
* File: V5/sim/rectifier/emg_vref_abs_rectifier_real_topology_candidate.cir
*
* Goal:
*   RECT_OUT = VREF + abs(RAW_IN - VREF)
*
* This is an explicit topology candidate, not a behavioral abs() rectifier core.
* The only behavioral expressions are inside the generic RRIO op-amp macromodel
* and in IDEAL_RECT / ERR comparison monitors.
*
* Constraints:
*   Single supply = 3.3 V
*   VREF = 1.65 V analog midbias
*   ADC_REF is not used as analog bias and is not present in this analog testbench
*   RAW_IN is centered around VREF
*
* Topology:
*   U1 = precision inverting half-wave rectifier around VREF.
*        For RAW_IN > VREF, A1_OUT ~= VREF - (RAW_IN - VREF).
*        For RAW_IN < VREF, A1_OUT ~= VREF.
*   U2 = VREF-referenced inverting summer.
*        RECT_OUT - VREF = -1*(RAW_IN - VREF) - 2*(A1_OUT - VREF)
*        Therefore:
*        If RAW_IN > VREF: RECT_OUT - VREF = +abs(RAW_IN - VREF)
*        If RAW_IN < VREF: RECT_OUT - VREF = +abs(RAW_IN - VREF)
*
* Model limitations:
*   Exact MCP6004/MCP6002 LTspice model was not found locally.
*   XU1/XU2 use a generic limited-output RRIO voltage-controlled op-amp model.
*   Exact BAS70/BAT54 model was not found locally.
*   D1/D2 use a generic Schottky approximation.
*
* Required traces:
*   RAW_IN VREF RECT_OUT IDEAL_RECT ERR EMG1_RECT_ADC EMG1_ENV_DRV
*   U1_DRV A1_OUT SUM1 SUM2 RECT_INT_A RECT_INT_B D_CLAMP_NODE D_FB_NODE

.param VCC=3.3
.param VREFDC=1.65
.param AMPL=0.02
.param FREQ=100
.param VCM=1.65

* Supplies and input stimulus
V3V3 V3V3 GND {VCC}
VVREF VREF GND {VREFDC}
VRAW RAW_IN GND SINE({VCM} {AMPL} {FREQ})

* Generic Schottky diode approximation for BAS70/BAT54-class planning.
.model D_SCHOTTKY_APPROX D(Is=1n Rs=2 N=1.08 Cjo=2p Bv=30 Ibv=10u Eg=0.69)

* Generic MCP6004/MCP6002-class RRIO-ish op-amp approximation.
* This is intentionally conservative-ish but not vendor accurate.
* Pins: INP INN OUT VDD VSS
.subckt RRIO_OPAMP_APPROX INP INN OUT VDD VSS
.param AOL=1e5
.param ROUT=50
.param VHEAD=0.03
BOPERR OP_INT 0 V=limit({AOL}*(V(INP)-V(INN)), V(VSS)+{VHEAD}, V(VDD)-{VHEAD})
ROUT1 OP_INT OUT {ROUT}
COUT OUT VSS 5p
.ends RRIO_OPAMP_APPROX

* -----------------------------------------------------------------------------
* U1: precision inverting half-wave rectifier around analog VREF
* -----------------------------------------------------------------------------
* SUM1 is the inverting summing node, held near VREF when U1 is in feedback.
* RIN1/RF1 are matched 10k/10k for unity inverting half-wave behavior.
* D1 orientation: anode at A1_OUT, cathode at U1_DRV.
*   When RAW_IN > VREF, U1_DRV goes below VREF, D1 conducts, and A1_OUT is
*   pulled below VREF through the precision feedback loop.
* D2 orientation: anode at U1_DRV, cathode at SUM1.
*   When RAW_IN < VREF, U1_DRV goes above VREF, D2 conducts to keep SUM1
*   controlled while A1_OUT is released back to VREF.

RIN1 RAW_IN SUM1 10k
RF1 A1_OUT SUM1 10k
XU1 VREF SUM1 U1_DRV V3V3 GND RRIO_OPAMP_APPROX

D1 A1_OUT U1_DRV D_SCHOTTKY_APPROX
D2 U1_DRV SUM1 D_SCHOTTKY_APPROX

* Defines A1_OUT near VREF when U1 half-wave output is off.
R_A1_BIAS A1_OUT VREF 1Meg

* Named aliases/probes for requested internal nodes.
R_ALIAS_A A1_OUT RECT_INT_A 1m
R_ALIAS_D1 A1_OUT D_FB_NODE 1m
R_ALIAS_D2 SUM1 D_CLAMP_NODE 1m

* -----------------------------------------------------------------------------
* U2: VREF-referenced inverting summer / reconstruction amplifier
* -----------------------------------------------------------------------------
* RECT_OUT - VREF = -Rf/RRAW*(RAW_IN - VREF) - Rf/RA1*(A1_OUT - VREF)
* RRAW2 = 20k, RA12 = 10k, RF2 = 20k -> coefficients -1 and -2.
* This matched 10k/20k style network is the proposed ratio family.

RRAW2 RAW_IN SUM2 20k
RA12 A1_OUT SUM2 10k
RF2 RECT_OUT SUM2 20k
XU2 VREF SUM2 RECT_INT_B V3V3 GND RRIO_OPAMP_APPROX

* Small output isolation from U2 internal output to external RECT_OUT node.
RISO2 RECT_INT_B RECT_OUT 47

* Light clamp protection for simulation visibility; should not conduct in normal pass cases.
DOUT_H RECT_OUT V3V3 D_SCHOTTKY_APPROX
DOUT_L GND RECT_OUT D_SCHOTTKY_APPROX

* -----------------------------------------------------------------------------
* Existing / planned load path
* -----------------------------------------------------------------------------
* EMG1_RECT_DRV -> R331 470R -> EMG1_RECT, C331 1nF to GND.
R331 RECT_OUT EMG1_RECT_ADC 470
C331 EMG1_RECT_ADC GND 1n
R_ADC_LEAK EMG1_RECT_ADC GND 10Meg

* ENV LPF load: choose capacitor to VREF, not GND, for this candidate.
* Reason: the rectifier output has a DC baseline at analog VREF; referencing the
* envelope storage capacitor to VREF makes the envelope node represent rectified
* magnitude above the same analog midbias and reduces unnecessary DC charge from
* VREF-to-ground. If the existing KiCad placeholder uses GND, compare both in
* a follow-up simulation before final schematic edit.
R_ENV RECT_OUT EMG1_ENV_DRV 33k
C_ENV EMG1_ENV_DRV VREF 1u
R_ENV_LEAK EMG1_ENV_DRV VREF 10Meg

* -----------------------------------------------------------------------------
* Comparison monitors only; not part of rectifier core.
* IDEAL_RECT may use abs() because it is only a reference trace.
* ERR is only a comparison signal.
B_IDEAL IDEAL_RECT GND V=V(VREF)+abs(V(RAW_IN)-V(VREF))
B_ERR ERR GND V=V(RECT_OUT)-V(IDEAL_RECT)

* Required stepped cases
.step param AMPL list 0.02 0.10 0.50 1.00
.step param FREQ list 20 100 500
.step param VCM list 1.60 1.65 1.70

.tran 0 120m 20m 20u

* Measurements over the retained simulation window.
.meas tran OUT_MIN MIN V(RECT_OUT)
.meas tran OUT_MAX MAX V(RECT_OUT)
.meas tran IDEAL_MIN MIN V(IDEAL_RECT)
.meas tran IDEAL_MAX MAX V(IDEAL_RECT)
.meas tran ERR_MIN MIN V(ERR)
.meas tran ERR_MAX MAX V(ERR)
.meas tran ADC_MIN MIN V(EMG1_RECT_ADC)
.meas tran ADC_MAX MAX V(EMG1_RECT_ADC)
.meas tran ENV_MIN MIN V(EMG1_ENV_DRV)
.meas tran ENV_MAX MAX V(EMG1_ENV_DRV)
.meas tran U1_MIN MIN V(U1_DRV)
.meas tran U1_MAX MAX V(U1_DRV)
.meas tran U2_MIN MIN V(RECT_INT_B)
.meas tran U2_MAX MAX V(RECT_INT_B)

* Suggested LTspice plots:
*   V(RAW_IN), V(VREF), V(A1_OUT), V(RECT_OUT), V(IDEAL_RECT), V(ERR)
*   V(EMG1_RECT_ADC), V(EMG1_ENV_DRV)
*   V(U1_DRV), V(SUM1), V(SUM2), V(RECT_INT_B)

.end

